US06995144B2
After adding 4 ml of n-butyllithium (2.46 M, n-hexane solution) to a solution of 1.384 g of 2,2,6,6-tetramethylpiperidine in tetrahydrofuran (15 ml) at −20° C. under a nitrogen atmosphere, the mixture was stirred for 30 minutes while cooling on ice. The reaction mixture was cooled to −70° C., and then a solution of 800 mg of 2-(tert-butoxycarbonylamino)pyrazine in tetrahydrofuran (3 ml) was added dropwise, the mixture was stirred for 1 hour, 3 ml of N,N-dimethylformaldehyde was added, and stirring was continued for 30 minutes. After removing the cooling bath and stirring for 30 minutes, water was added and extraction was performed with ethyl acetate. The extract was dried and concentrated and then purified by silica gel column chromatography (solvent: ethyl acetate/n-hexane) to obtain 72 mg of crude 2-(tert-butoxycarbonylamino)pyrazine-3-carboxaldehyde.

reactant | n-butyllithium | 2.46 M, 4 ml | C(CCC)[Li]
reactant | 2,2,6,6-tetramethylpiperidine | 1.384 g | CC1(NC(CCC1)(C)C)C | C9H19N
reactant | 2-(tert-butoxycarbonylamino)pyrazine | 800 mg | C(C)(C)(C)OC(=O)NC1=NC=CN=C1 | C9H13N3O2
reactant | N,N-dimethylformaldehyde | 3 ml | CN(C)C=O | C3H7NO
solvent | tetrahydrofuran | 15 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
product | 2-(tert-butoxycarbonylamino)pyrazine-3-carboxaldehyde | 72 mg | C(C)(C)(C)OC(=O)NC1=NC=CN=C1C=O | C10H13N3O3
